2126-10-22 07:36:00 Physician Resident Progress Note
Chief Complaint: Altered Mental Status; SOB
   24 Hour Events:
   Patient with hypotension requiring 3L of NS in multiple boluses
   O2 requirements stable
   Allergies:
   Keppra (Oral) (Levetiracetam)
   Rash;
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Rash;
   Lamictal (Oral) (Lamotrigine)
   Rash;
   Toprol Xl (Oral) (Metoprolol Succinate)
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2126-10-21**] 11:21 PM
   Infusions:
   Heparin Sodium - 1,050 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-22**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.8
C (96.5
   HR: 130 (120 - 133) bpm
   BP: 92/74(78) {84/53(62) - 113/74(78)} mmHg
   RR: 26 (21 - 32) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    367 mL
                                                                  1,965 mL
   PO:
             TF:
   IVF:
                                                                    367 mL
                                                                  1,815 mL
   Blood products:
   Total out:
                                                                    190 mL
                                                                    150 mL
   Urine:
                                                                     90 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    177 mL
                                                                  1,815 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///18/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, Anxious, Diaphoretic
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy, Supraclavicular adenopathy
   Cardiovascular: (PMI No(t) Normal, Hyperdynamic), (S1: Normal), (S2:
   Loud)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: left side)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   152 K/uL
   9.8 g/dL
   141 mg/dL
   0.6 mg/dL
   18 mEq/L
   3.1 mEq/L
   14 mg/dL
   108 mEq/L
   138 mEq/L
   29.8 %
   7.0 K/uL
        [image002.jpg]
                             [**2126-10-21**]  10:47 PM
                             [**2126-10-22**]  05:17 AM
   WBC
   7.0
   Hct
   29.8
   Plt
   152
   Cr
   0.6
   TropT
   0.09
   Glucose
   141
   Other labs: PT / PTT / INR:14.9/82.2/1.3, CK / CKMB /
   Troponin-T:20/6/0.09, Differential-Neuts:84.0 %, Band:2.0 %, Lymph:5.0
   %, Mono:4.0 %, Eos:3.0 %, Ca++:8.2 mg/dL, Mg++:1.2 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   68 yoF w/ a h/o Metastatic NSCLC with brain mets presents with
   palpitations and feeling unwell x 2 days and found to have a saddle PE.
   .
   # Pulmonary Embolism: Patient found to have PE on CTA in setting of
   palpitations, some findings consistent with right ventricular strain on
   EKG and physical exam.
   -start heparin IV without a bolus, discussed with oncology regarding
   brain metastasis and risks of anticoagulation.
   -telemetry
   -obtain echo to evaluate for significant RV strain or for RA or RV clot
   -lower extremity ultrasound to evaluate for high clot burden
   -IVF for low BP and if tolerates use verapamil for slowing heart rate
   .
   # Bandemia:  On decadron for brain mets as well as vertebral mets.  No
   fevers.  Bands are new when compared to previous differentials.
   -repeat CBC w/ diff in a.m.
   -has rec'd vanc / cefepime in ER- given lack of infection will
   currently hold further antibiotics unless shows signs / sx of infection
   or has + culture data
   -u/a negative, f/u blood cultures and urine cultures
   -elevated troponin likely related to PE.  Will resend at 10 p.m. and
   continue to trend
   .
   # Lung Cancer: discussed briefly with oncology.  Will consult oncology
   (patient's primary oncologist is Dr [**Last Name (STitle) 984**] and fellow is Dr. [**First Name8 (NamePattern2) **]
   [**Last Name (NamePattern1) 985**].
   -progressive stage IV nonsmall cell lung cancer,  has gotten brain
   irradiation with plans for cyber knife treatment.
   -has rec'd 15 day course of treatment, cycle 1 with Navelbine.  Last
   dose was on [**2126-10-8**].
   .
   # FEN:  regular diet, RISS given hyperglycemia likely related to
   decadron
   -electrolyte repletion scales
   .
   # Access: PIV x 2
   .
   # PPx:  heparin IV, PPI
   .
   # Code:  FULL
   .
   # Dispo: ICU
   .
   # Comm: [**Name (NI) **],[**Name (NI) 80**] (Son) [**Telephone/Fax (1) 986**]; [**Telephone/Fax (1) 987**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2126-10-21**] 08:39 PM
   20 Gauge - [**2126-10-21**] 08:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2126-10-22 09:40:00 Physician Attending Progress Note
Chief Complaint: Pulmonary Embolus
   Altered Mental Status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   1)Patient admit to ICU with persistent tachycardia through to this
   morning
   2)Bandemia has improved
   3)Patient with CTA revealing saddle embolus with extension to right and
   left main PA's
   4)Heparin started for treatment
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Keppra (Oral) (Levetiracetam)
   Rash;
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Rash;
   Lamictal (Oral) (Lamotrigine)
   Rash;
   Toprol Xl (Oral) (Metoprolol Succinate)
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2126-10-21**] 11:21 PM
   Infusions:
   Heparin Sodium - 1,050 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Respiratory: Cough
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2126-10-22**] 09:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 122 (120 - 133) bpm
   BP: 116/60(72) {84/39(51) - 116/74(78)} mmHg
   RR: 40 (21 - 40) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    367 mL
                                                                  2,043 mL
   PO:
             TF:
   IVF:
                                                                    367 mL
                                                                  1,893 mL
   Blood products:
   Total out:
                                                                    190 mL
                                                                    180 mL
   Urine:
                                                                     90 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    177 mL
                                                                  1,863 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///18/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic), JVP elevated significantly and
   RV heave appreciated yesterday but diminshed across today with JVP <6
   cm H2O.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Wheezes : left base)
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   152 K/uL
   141 mg/dL
   0.6 mg/dL
   18 mEq/L
   3.1 mEq/L
   14 mg/dL
   108 mEq/L
   138 mEq/L
   29.8 %
   7.0 K/uL
        [image002.jpg]
                             [**2126-10-21**]  10:47 PM
                             [**2126-10-22**]  05:17 AM
   WBC
   7.0
   Hct
   29.8
   Plt
   152
   Cr
   0.6
   TropT
   0.09
   Glucose
   141
   Other labs: PT / PTT / INR:14.9/82.2/1.3, CK / CKMB /
   Troponin-T:20/6/0.09, Differential-Neuts:84.0 %, Band:2.0 %, Lymph:5.0
   %, Mono:4.0 %, Eos:3.0 %, Ca++:8.2 mg/dL, Mg++:1.2 mg/dL, PO4:2.9 mg/dL
   Imaging: CTA--Large central thrombus with extension to right and left
   main PA's
   CXR-No signficiant change
   Assessment and Plan
   68 yo female with h/o HTN and NSCCA-Lung with brain/spine mets with
   altered mental status and tachycardia at initial presentation.  This
   was in a relative absence of associated symptoms limited only to dry
   cough.  Patient at [**Hospital3 981**] with tachycardia and then transferred
   to [**Hospital1 5**] for further care.  Here she was identified with significant
   pulmonary embolism and after extended discussion with oncology team and
   clinical decision making with patient heparin was started for
   anticoagulation.
   1)Pulmonary Embolism-Documented on CTA, is leading diagnosis for
   tachycardia and tachypnea
   -Heparin with goal PTT 60-80
   -Follow up coags closely
   -Will have to decide with oncology team long term anticoagulation with
   Coumadin vs. Lovenox
   -Wean O2 as possible
   -Will pursue LENI study only if anticoagulation remains difficult to
   maintain.
   -She has persistent tachycardia and tachypnea which would be expected
   to resolve over first 72-96 hours borrowing from our understanding of
   UPET data from lysis trials, what may be encouraging is that her CVP
   has shown a decrease by physical exam although this may represent in
   adquate filling volume.
   -Will utilize ECHO to evaluate RV function and relative volume status
   in the setting of persistent tachycardia.
   2)Lung Cancer-[**Month (only) 8**] well have been risk factor for thrombo-embolism
   -Continue supportive Rx
   -Will discuss treatment timing implications with oncology team
   -Continue dexamethasone
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2126-10-21**] 08:39 PM
   20 Gauge - [**2126-10-21**] 08:39 PM
   Prophylaxis:
   DVT: Systemic anticoagulation: Heparin gtt
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2126-10-23 07:24:00 Physician Resident Progress Note
Chief Complaint: 68 yoF w/ a h/o Metastatic NSCLC with brain mets
   presents with palpitations and feeling unwell x 2 days and found to
   have a saddle PE.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2126-10-22**] 10:34 AM
   This morning, patient without complaints. Denies chest pain, abdominal
   pain, or difficulty breathing. Patient appears more comfortable
   breathing than yesterday morning.
   Discussion yesterday with oncology, came to conclusion that risk of PE
   untreated was higher than risk of intracranial bleed, so started on
   heparin drip
   - o2 requirements stable [**10-22**], BP 90=> 80s
   Blood pressure much improved yesterday now in 130s systolic with fluid
   boluses.
   - didn't start antibiotics b/c could explain bands and shift with PE
   - chest x-ray unchanged
   - not candidate for surgery or tpa due to metastatic disease and likely
   at high risk to bleed
   - son is apparently reasonable about code status, however patient still
   wanting to be full code, will need to continue to readdress
   - urine output currently putting out 25 cc/hr
   - echo: MPRESSION: Right ventricular cavity enlargement with free wall
   hypokinesis with pulmonary artery hypertension probable main pulmonary
   artery thrombus c/w pulmonary embolism.
   - written for diet
   - lovenox when she is stable per onc (lovenox shot then 4-6 hours later
   can d/c heparin - NOT YET)
   - onc - no plans to restart chemo right now, or maybe not at all in the
   future
   - got addition 500 cc at 9:30 pm for low urine output - JVP not
   markedly elevated, crackels at the left base
   Started on nebs this morning, had 3 therapeutic PTTs
   Allergies:
   Keppra (Oral) (Levetiracetam)
   Rash;
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Rash;
   Lamictal (Oral) (Lamotrigine)
   Rash;
   Toprol Xl (Oral) (Metoprolol Succinate)
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2126-10-21**] 11:21 PM
   Infusions:
   Heparin Sodium - 1,050 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: none
   Flowsheet Data as of  [**2126-10-23**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36
C (96.8
   HR: 120 (111 - 130) bpm
   BP: 133/86(96) {84/15(32) - 133/86(96)} mmHg
   RR: 25 (18 - 40) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  4,533 mL
                                                                    805 mL
   PO:
                                                                     75 mL
             TF:
   IVF:
                                                                  4,188 mL
                                                                    805 mL
   Blood products:
   Total out:
                                                                    555 mL
                                                                    155 mL
   Urine:
                                                                    555 mL
                                                                    135 mL
   NG:
   Stool:
   20 mL
   Drains:
   Balance:
                                                                  3,978 mL
                                                                    650 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///18/
   Physical Examination
   General Appearance: tachypneic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : left base), right lung
   sounds clear
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm throughout, except feet cold b/l
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, time, and place, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   152 K/uL
   9.7 g/dL
   148
   0.5 mg/dL
   18 mEq/L
   4.5 mEq/L
   19 mg/dL
   111 mEq/L
   140 mEq/L
   30.2 %
   9.2 K/uL
        [image002.jpg]
                             [**2126-10-21**]  10:47 PM
                             [**2126-10-22**]  05:17 AM
                             [**2126-10-23**]  04:45 AM
                             [**2126-10-23**]  06:00 AM
   WBC
   7.0
   9.2
   Hct
   29.8
   30.2
   Plt
   152
   152
   Cr
   0.6
   0.5
   TropT
   0.09
   0.07
   Glucose
   141
   135
   148
   Other labs: PT / PTT / INR:15.5/71.5/1.4, CK / CKMB /
   Troponin-T:20/5/0.07, Differential-Neuts:84.0 %, Band:2.0 %, Lymph:5.0
   %, Mono:4.0 %, Eos:3.0 %, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   68 yoF w/ a h/o Metastatic NSCLC with brain mets presents with
   palpitations and feeling unwell x 2 days and found to have a saddle PE.
   .
   # Pulmonary Embolism: Patient found to have PE on CTA in setting of
   palpitations with evidence of right ventricular cavity hypokinesis and
   pulm HTN
   -          Continue heparin drip for now, will start lovenox and bridge
   with IV heparin for 6 hours has currently Hemodynamically stable with
   adequate oxygenations
   -          Oxygenation goals are > 90%, which have been essentially
   maintained
   -          Continue telemetry monitoring
   -          Echocardiogram from [**10-22**] - IMPRESSION: Right ventricular
   cavity enlargement with free wall hypokinesis with pulmonary artery
   hypertension probable main pulmonary artery thrombus c/w pulmonary
   embolism.
   -          IVF appear to be helpful in maintaining adequate blood
   pressure
 obviously need to be careful in the setting of someone with
   essentially knocked out right ventricle
   -          - has wheezing on exam this morning, will start nebs
   -          - as 4L positive today with more cough, rv hypokinesis and
   wheezing will have goal to keep net even and bolus with fluid PRN for
   low blood pressure only
   .
   # Lung Cancer: discussed briefly with oncology.  Will consult oncology
   (patient's primary oncologist is Dr [**Last Name (STitle) 984**] and fellow is Dr. [**First Name8 (NamePattern2) **]
   [**Last Name (NamePattern1) 985**].
   -progressive stage IV nonsmall cell lung cancer, has gotten brain
   irradiation with plans for cyber knife treatment.
   -has rec'd 15 day course of treatment, cycle 1 with Navelbine.  Last
   dose was on [**2126-10-8**]
   - oncology at this time no more plans for chemo now and possibly ever
   - recommending starting lovenox instead of coumadin for PE, which
   primary icu team agrees with
   - with follow up with their recs today
   .
   # FEN:  regular diet, RISS given hyperglycemia likely related to
   decadron
   -electrolyte repletion scales
   .
   # Access: PIV x 2
   .
   # PPx:  heparin IV, PPI, colace, senna
   .
   # Code:  FULL ( confirmed again [**10-22**])
   .
   # Dispo: consider transfer to floor this evening or tomorrow morning
   .
   # Comm: [**Name (NI) **],[**Name (NI) 80**] (Son) [**Telephone/Fax (1) 986**]; [**Telephone/Fax (1) 987**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2126-10-21**] 08:39 PM
   20 Gauge - [**2126-10-21**] 08:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2126-10-23 09:46:00 Physician Attending Progress Note
Chief Complaint: Saddle PE
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Received ~2.5L of IVF over the course of the past 24 hours.
   Oxygenation and SBP remained stable; she was persistently tachycardic
   to the 120s.
   Started diet, PO intake remains low.
   Family meetings with son, patient and Oncologist --> she remains full
   code.
 TRANSTHORACIC ECHO - At [**2126-10-22**] 10:34 AM: RV cavity enlargement,
   elevated PASP, and free wall hypokinesis.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Keppra (Oral) (Levetiracetam)
   Rash;
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Rash;
   Lamictal (Oral) (Lamotrigine)
   Rash;
   Toprol Xl (Oral) (Metoprolol Succinate)
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2126-10-21**] 11:21 PM
   Infusions:
   Heparin Sodium - 1,050 units/hour
   Other ICU medications:
   Other medications:
   Protonix 40 [**Hospital1 **]
   Dexamethasone 2mg [**Hospital1 **]
   Colace 100 [**Hospital1 **]
   Provigil
   Celexa
   Heparin gtt at 1050units/hr
   RSSI
   Atrovent nebs q6h
   Albuterol nebs PRN
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-23**] 09:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36
C (96.8
   HR: 121 (111 - 130) bpm
   BP: 104/50(64) {84/15(32) - 133/86(96)} mmHg
   RR: 22 (18 - 36) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  4,533 mL
                                                                  1,000 mL
   PO:
                                                                     75 mL
             TF:
   IVF:
                                                                  4,188 mL
                                                                  1,000 mL
   Blood products:
   Total out:
                                                                    555 mL
                                                                    255 mL
   Urine:
                                                                    555 mL
                                                                    235 mL
   NG:
   Stool:
   20 mL
   Drains:
   Balance:
                                                                  3,978 mL
                                                                    746 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///18/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress, Thin
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, Conjunctiva pale,
   No(t) Sclera edema
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL
   Cardiovascular: (S2: Normal, Loud), No(t) S3, No(t) S4, (Murmur: No(t)
   Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Crackles : , No(t)
   Bronchial: , Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.7 g/dL
   152 K/uL
   148
   0.5 mg/dL
   18 mEq/L
   4.5 mEq/L
   19 mg/dL
   111 mEq/L
   140 mEq/L
   30.2 %
   9.2 K/uL
        [image002.jpg]
                             [**2126-10-21**]  10:47 PM
                             [**2126-10-22**]  05:17 AM
                             [**2126-10-23**]  04:45 AM
                             [**2126-10-23**]  06:00 AM
   WBC
   7.0
   9.2
   Hct
   29.8
   30.2
   Plt
   152
   152
   Cr
   0.6
   0.5
   TropT
   0.09
   0.07
   Glucose
   141
   135
   148
   Other labs: PT / PTT / INR:15.5 / 71.5 / 1.4, CK / CKMB /
   Troponin-T:20/5/0.07, Differential-Neuts:80.0 %, Band:5.0 %, Lymph:2.0
   %, Mono:10.0 %, Eos:1.0 %, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:2.4
   mg/dL
   Imaging: Chest x-ray ([**10-23**]): Clear costophrenic angles, lingular
   infiltrate c/w known mass -- no change from yesterday.
   Assessment and Plan
   68yo woman with a h/o HTN and NSCCA-Lung with brain/spine mets who
   presented with palpitations and was found to have a saddle PE. Started
   on heparin IV and admitted to [**Hospital Unit Name 4**] for monitoring / management .
   1)Pulmonary Embolism: Remains hemodynamically stable although
   persistently tachycardic. Oxygenation adequate on minimal
   supplementation. Likely safe to transition to Lovenox from Heparin gtt
   given her cardiopulmonary stability over the past 48 hours.
   2) Blood pressure: She has been aggressively volume resuscitated with
   stable SBPs. HR remains elevated. Will encourage PO intake and reserve
   IVF boluses for hypotension, should it occur.
   3) Onc: No plans for further chemo at this time, per Oncology.
   4) F/E/N: Regular diet, encouraged increased PO.
   5) Pulmonary: Wheezing on exam today, continue standing nebs and
   monitor serial lung exams and x-ray. Suspect moderate obstructive
   disease, although pulmonary edema (in setting of aggressive volume
   resuscitation) may be playing a role. Inhaled beta-agonists may assist
   with this.
   6) Proph: SCDs, IV heparin. PPI. Colace, senna.
   7) Code: Remains full, confirmed yesterday.
   8) Dispo: [**Hospital Unit Name 4**] for now, if she remains hemodynamically stable then
   consider transfer to the floor.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2126-10-21**] 08:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full Code
   Disposition :To Floor if continued stability seen by this pm
   Total time spent: 35

2126-10-24 07:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -increased wheezing overnight, although patient felt comfortable,
   satting at 89%. Gave nebs which improved sats to low 90s. CXR looked
   unchanged from previous, no increased edema, cephalization.
   Allergies:
   Keppra (Oral) (Levetiracetam)
   Rash;
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Rash;
   Lamictal (Oral) (Lamotrigine)
   Rash;
   Toprol Xl (Oral) (Metoprolol Succinate)
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2126-10-21**] 11:21 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2126-10-23**] 08:00 AM
   Enoxaparin (Lovenox) - [**2126-10-23**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-24**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.9
C (96.6
   HR: 123 (112 - 128) bpm
   BP: 116/70(81) {86/46(57) - 124/73(81)} mmHg
   RR: 30 (15 - 34) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70 kg (admission): 70.5 kg
                  Total In:
                                                                  2,188 mL
                  PO:
                                                                    120 mL
                  TF:
   IVF:
                                                                  2,068 mL
   Blood products:
   Total out:
                                                                    655 mL
                                                                    165 mL
   Urine:
                                                                    635 mL
                                                                    165 mL
   NG:
   Stool:
                                                                     20 mL
   Drains:
   Balance:
                                                                  1,533 mL
                                                                   -165 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///20/
   Physical Examination
   GEN: Laying in bed, tachypneic but does not appear to be in distress
   HEENT: NCAT MMM pink conjunctiva
   CV: RRR S1S2 no m/r/g
   PULM: diffuse wheezes especially in upper and mid-lung fields, but
   moving air better today than on previous exams
   ABD: soft nontender nondistended +bs
   EXT:WWW 1+dp pulses bilateral 1+ edema to knee
   SKIN: no new lesions
   Labs / Radiology
   121 K/uL
   9.0 g/dL
   112 mg/dL
   0.5 mg/dL
   20 mEq/L
   3.6 mEq/L
   21 mg/dL
   110 mEq/L
   139 mEq/L
   27.1 %
   8.1 K/uL
        [image002.jpg]
                             [**2126-10-21**]  10:47 PM
                             [**2126-10-22**]  05:17 AM
                             [**2126-10-23**]  04:45 AM
                             [**2126-10-23**]  06:00 AM
                             [**2126-10-23**]  12:00 PM
                             [**2126-10-24**]  03:56 AM
   WBC
   7.0
   9.2
   8.1
   Hct
   29.8
   30.2
   27.1
   Plt
   152
   152
   121
   Cr
   0.6
   0.5
   0.5
   TropT
   0.09
   0.07
   Glucose
   141
   135
   148
   187
   112
   Other labs: PT / PTT / INR:15.1/35.3/1.3, CK / CKMB /
   Troponin-T:20/5/0.07, Differential-Neuts:80.0 %, Band:5.0 %, Lymph:2.0
   %, Mono:10.0 %, Eos:1.0 %, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.3
   mg/dL
   Assessment and Plan
   68 yoF w/ a h/o Metastatic NSCLC with brain mets presents with
   palpitations and feeling unwell x 2 days and found to have a saddle PE.
   .
   # Pulmonary Embolism: Patient with known PE on CTA with tachycardia,
   right ventricular cavity hypokinesis on echo and pulm HTN. On lovenox,
   supplemental O2 and nebulizers. Seems improved from admission. Likely
   PEs will begin to resolve to some extent and allowing for better
   perfusion, respiration. She would benefit from working with physical
   therapy today. Although she is fluid positive, would not be too
   aggressive to diurese given her low BPs and unremarkable CXR.
   -          Continue lovenox
   -          Supplemental O2 with goal O2 sat >90%
   -          PT/OT today
   -          PRN nebs
   -          For tachycardia, consider d/c provigil if not necessary for
   primary CNS process (unclear why she is on this). It may help bring her
   HR down.
   .
   # Lung Cancer: Oncology following, appreciate recommendations. Per
   primary oncologist she will likely be ready for the oncology service
   today, tomorrow for further management.
   -f/u any new recommendations
   -continue lovenox
   -no chemotherapy at this time
   .
   # FEN:  regular diet, RISS, IVF to support BP with caution not to
   overload, replete electrolytes
   .
   # Access: PIV x 2
   .
   # PPx:  lovenox, PPI, colace, senna
   .
   # Code:  FULL
   .
   # Dispo: c/o to floor today
   .
   # Comm: [**Name (NI) **],[**Name (NI) 80**] (Son) [**Telephone/Fax (1) 986**]; [**Telephone/Fax (1) 987**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2126-10-21**] 08:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2126-10-24 10:26:00 Physician Attending Progress Note
Chief Complaint: Pulmonary Embolism
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patient with increased wheezing and tachypnea overnight in the setting
   of 1.5 liters positive overnight
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Keppra (Oral) (Levetiracetam)
   Rash;
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Rash;
   Lamictal (Oral) (Lamotrigine)
   Rash;
   Toprol Xl (Oral) (Metoprolol Succinate)
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2126-10-21**] 11:21 PM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2126-10-23**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2126-10-24**] 10:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.3
C (97.3
   HR: 125 (112 - 128) bpm
   BP: 119/61(76) {86/46(57) - 123/73(81)} mmHg
   RR: 24 (15 - 34) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70 kg (admission): 70.5 kg
                  Total In:
                                                                  2,188 mL
                  PO:
                                                                    120 mL
                  TF:
   IVF:
                                                                  2,068 mL
   Blood products:
   Total out:
                                                                    655 mL
                                                                    225 mL
   Urine:
                                                                    635 mL
                                                                    225 mL
   NG:
   Stool:
                                                                     20 mL
   Drains:
   Balance:
                                                                  1,533 mL
                                                                   -225 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///20/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   )
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   121 K/uL
   112 mg/dL
   0.5 mg/dL
   20 mEq/L
   3.6 mEq/L
   21 mg/dL
   110 mEq/L
   139 mEq/L
   27.1 %
   8.1 K/uL
        [image002.jpg]
                             [**2126-10-21**]  10:47 PM
                             [**2126-10-22**]  05:17 AM
                             [**2126-10-23**]  04:45 AM
                             [**2126-10-23**]  06:00 AM
                             [**2126-10-23**]  12:00 PM
                             [**2126-10-24**]  03:56 AM
   WBC
   7.0
   9.2
   8.1
   Hct
   29.8
   30.2
   27.1
   Plt
   152
   152
   121
   Cr
   0.6
   0.5
   0.5
   TropT
   0.09
   0.07
   Glucose
   141
   135
   148
   187
   112
   Other labs: PT / PTT / INR:15.1/35.3/1.3, CK / CKMB /
   Troponin-T:20/5/0.07, Differential-Neuts:80.0 %, Band:5.0 %, Lymph:2.0
   %, Mono:10.0 %, Eos:1.0 %, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.3
   mg/dL
   Imaging: CXR--Persistent left peri-hilar infiltrate noted, no new
   infiltrates or effusions but persistent mild peri-vascular congestion..
   Assessment and Plan
   68 yo female with history of lung CA and now seen with presentation of
   acute pulmonary embolism and now with persistent tachycardia in the
   setting of intermittent wheezing.  The tachycardia has not changed
   significantly with IV fluid bolus but blood pressure has stabilized.
   The respiratory distress seen yesterday was responsive to nebulizer
   treatment.
   1)PE-
   -Lovenox
   -IVF goal even
   -Will need long term anticoagulation
   2)Tachycardia-
   -D/C Provigil is indication clearly defined
   -Keep I/O even
   -Keep on Telemetry
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2126-10-21**] 08:39 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Lovenox)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU, but transfer to floor with continued stability in
   regards to hemodynamics and oxygenation this morning
   Total time spent: 35 minutes